US09226916B2
{(3S,4R)-4-(3,4-Dichloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-trifluoromethyl-cyclohexyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound {(3S,4R)-4-(3,4-dichloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-trifluoromethyl-cyclohexyl ester was prepared from [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-trifluoromethyl-cyclohexyl ester instead of [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as an off-white foam. MS m/e: 634.2 [M]+.

reactant | [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-trifluoromethyl-cyclohexyl ester | FC(C1CCC(CC1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)Cl)Cl)=O)(F)F | C19H23Cl2F3N2O2
reactant | 1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid | O1CCC(CC1)N1CCC(CC1)C(=O)O | C11H19NO3
product | {(3S,4R)-4-(3,4-dichloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-trifluoromethyl-cyclohexyl ester | FC(C1CCC(CC1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C1CCOCC1)=O)(F)F | C30H40Cl2F3N3O4
